US07541736B2
3.0 g (17.3 mmol) of 4H-thieno[3,2-b]indole (C′), 4.93 g (17.3 mmol) of 1-bromo-4-octyloxybenzene, and 0.0025 g (1.114×10−2 mmol) of tris(dibenzylideneacetone)dipalladium(0) were dissolved in 1.9 g (19.8 mmol) of t-BuONa, 0.003 g (1.5×102 mmol) of t-butylphosphine, and 50 ml of xylene and the solution was refluxed at 120° C. for 24 hours. Then, the solvent was removed and the resulting product was isolated and purified by column chromatography using toluene/hexane (⅓ by volume) as an eluent, thereby obtaining 5.35 g (yield: 82%) of 4-(4′-octyloxy-phenyl)-4H-thieno[3,2-b]indole (D′).

reactant | 4H-thieno[3,2-b]indole | 17.3 mmol, 3.0 g | S1C=CC=2NC=3C=CC=CC3C21 | C10H7NS
reactant | 1-bromo-4-octyloxybenzene | 17.3 mmol, 4.93 g | BrC1=CC=C(C=C1)OCCCCCCCC | C14H21BrO
reactant | t-BuONa | 19.8 mmol, 1.9 g | C(C)(C)(C)O[Na]
reactant | t-butylphosphine | 1.5×102 mmol, 0.003 g | C(C)(C)(C)P | C4H11P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.114×10−2 mmol, 0.0025 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4′-octyloxy-phenyl)-4H-thieno[3,2-b]indole | 5.35 g, yield: 82% | C(CCCCCCC)OC1=CC=C(C=C1)N1C2=C(C=3C=CC=CC13)SC=C2 | C24H27NOS
